US07767623B2
2-Trimethylsilyl-3-phenylpropene (2.5 g), prepared according to J. Org. Chem. 43, 147 (1978), was dissolved in THF and was then hydrogenated over Pd on charcoal under atmospheric pressure and at room temperature until the uptake of hydrogen ceased. Removal of the catalyst and the solvent yielded an oil (2.36 g) which was chromatographed on silica gel (eluent: hexane:ethylacetate 39:1) to give 2-trimethylsilyl-3-phenylpropane (2.3 g; 92.5% pure by NMR). This compound was dissolved in acetanhydride (4 ml), cooled to −35° C. and at this temperature a pre-cooled mixture of concentrated nitric acid (0.48 ml) and acetanhydride (2.4 ml) was added slowly. After warming to ambient temperature the reaction mixture was stirred for 3 hours and then poured into ice-cold diluted ammonia. After extraction with ethyl acetate and drying over sodium sulfate the solvent was removed and the residue was chromatographed on silica gel (eluent: hexane:TBF:ethylacetate 39:4:1) added) to yield a yellow oil (1.4 g) which consisted of an approximate 1:1 mixture of 2-trimethylsilyl-3-(2′-nitrophenyl)-propane and 2-trimethylsilyl-3-(4′-nitrophenyl)-propane. This mixture was hydrogenated over Pd on charcoal under atmospheric pressure and at room temperature until the uptake of hydrogen ceased. Removal of the catalyst and the solvent and chromatography on silica gel (eluent: hexane:ethyl acetate, 4:1) yielded 2-trimethylsilyl-3-(2′-aminophenyl)-propane (0.75 g; pure according to NMR). 0.15 g of this compound was dissolved in dry THF, cooled with ice and 2-chloronicotinoylchloride (0.13 g) was added, followed by pyridine (0.01 ml). The reaction mixture was stirred at room temperature over night, poured on to water and extracted twice with ethylacetate. The organic phase was washed with water, dried with sodium sulfate and the solvent was removed. Recrystallisation of the resulting crystals from hexane yielded Compound Number 9.35 (0.16 g).

reactant | 2-trimethylsilyl-3-(2′-nitrophenyl)-propane | C[Si](C(C)CC1=C(C=CC=C1)[N+](=O)[O-])(C)C | C12H19NO2Si
reactant | 2-trimethylsilyl-3-(4′-nitrophenyl)-propane | C[Si](C(C)CC1=CC=C(C=C1)[N+](=O)[O-])(C)C | C12H19NO2Si
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | [Pd] | Pd
product | 2-trimethylsilyl-3-(2′-aminophenyl)-propane | 0.75 g | C[Si](C(C)CC1=C(C=CC=C1)N)(C)C | C12H21NSi
